US06335459B1
(3-Formyl-2-methylphenoxy)acetic acid tert-butyl ester (0.94 g, 3.75 mmol) was dissolved in freshly distilled tetrahydrofuran and cooled to −78° C. Methyl magnesium chloride (2.62 mL, 7.88 mmol) was added dropwise and the mixture was allowed to stir at −78° C. for two hours. The mixture was allowed to warm to room temperature, stirred for an additional six hours, then carefully quenched with water, and extracted with ethyl acetate. The organic extracts were dried over anhydrous sodium sulfate and concentrated in vacuo. Purification by silica gel chromatography, eluting with hexane/acetone, gave [3-(1-hydroxyethyl)-2-methylphenoxy)acetic acid tert-butyl ester as a clear oil (594 mg, 59.5%).

reactant | (3-Formyl-2-methylphenoxy)acetic acid tert-butyl ester | 3.75 mmol, 0.94 g | C(C)(C)(C)OC(COC1=C(C(=CC=C1)C=O)C)=O | C14H18O4
reactant | Methyl magnesium chloride | 7.88 mmol, 2.62 mL | C[Mg]Cl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | [3-(1-hydroxyethyl)-2-methylphenoxy)acetic acid tert-butyl ester | 594 mg, 59.5% | C(C)(C)(C)OC(COC1=C(C(=CC=C1)C(C)O)C)=O | C15H22O4
